datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C#N)(CC(=O)[O-:10])c1ccccc1.CCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20]>>CC(C#N)(CC(=O)[O:10][H:20])c1ccccc1.CCCCCC[N:21](CC(O)CC)CC(O)CC 10=20;20,21=21",
"Nc1n[nH]c(N)c1/N=N/c1ccc([O-:10])cc1.O=[N+]([O-])c1ccc(-n2cn[n+:21]([H:20])n2)cc1>>Nc1n[nH]c(N)c1/N=N/c1ccc([O:10][H:20])cc1.O=[N+]([O-])c1ccc(-n2cn[n:21]n2)cc1 10=20;20,21=21",
"COCC[NH:10]c1ccc(OC)cc1.C[NH+](C)CCOCC[N+:21](C)(C)[H:20]>>COCC[NH+:10](c1ccc(OC)cc1)[H:20].C[NH+](C)CCOCC[N:21](C)C 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCCCCCOCC[N:10](C)C.O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n+:21]([H:20])c23)[C@@H](O)[C@H](O)[C@H]1O>>CCCCCCCCOCC[N+:10](C)(C)[H:20].O=C([O-])[C@@H]1O[C@H](Oc2cccc3ccc[n:21]c23)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"C(/C=C/C=C/Nc1ccccc1)=[N+:21](c1ccccc1)[H:20].CC1=CC[N:10]2CC[C@@H](O)[C@@H]12>>C(/C=C/C=C/Nc1ccccc1)=[N:21]c1ccccc1.CC1=CC[N+:10]2([H:20])CC[C@@H](O)[C@@H]12 10=20;20,21=21",
"COc1cccc(-c2nnn[n-:10]2)c1.O=C(CSc1cccc([N+](=O)[O-])c1)[O:21][H:20]>>COc1cccc(-c2nnn[n:10]2[H:20])c1.O=C(CSc1cccc([N+](=O)[O-])c1)[O-:21] 10=20;20,21=21",
"CCC[NH:10]CCN.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](CCN)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCC[N+:21](CC(C)O)(CC(O)CC)[H:20].Cc1ccc2[nH]c[n:10]c2c1>>CCC[N:21](CC(C)O)CC(O)CC.Cc1ccc2[nH]c[n+:10]([H:20])c2c1 10=20;20,21=21",
"CO[O-:10].C[N:21]([N+](=O)[O-])[H:20]>>CO[O:10][H:20].C[N-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=CSC2=[N+:21]([H:20])CCN12.COCC(=O)[N-:10]N>>CC1=CSC2=[N:21]CCN12.COCC(=O)[N:10](N)[H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C=C(C)C(=O)OCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCP(=O)(CCC)[O-:10].O=Cc1cccnc1C(=O)[O:21][H:20]>>CCCP(=O)(CCC)[O:10][H:20].O=Cc1cccnc1C(=O)[O-:21] 10=20;20,21=21",
"Cc1cc(C)c([O:21][H:20])cc1C.O=C(N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1)c1cccc2c1OCCO2>>Cc1cc(C)c([O-:21])cc1C.O=C(N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20])c1cccc2c1OCCO2 10=20;20,21=21",
"C[NH+](C)c1ccc([N+:21](C)(C)[H:20])cc1.O=[N+]([O-])c1ccc(O)c2c1ccc[n:10]2>>C[NH+](C)c1ccc([N:21](C)C)cc1.O=[N+]([O-])c1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"C/C(N)=[S+:21]\[H:20].c1ncc(CC[NH2:10])[nH]1>>CC(N)=[S:21].c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CCC(CO)(CO)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CCC(CO)(CO)[NH2+:10][H:20] 10=20;20,21=21",
"CCOCCn1c(N2CCC[N+:21](CCCCn3cccn3)([H:20])CC2)nc2ccccc21.O=C(c1ccncc1)[NH-:10]>>CCOCCn1c(N2CCC[N:21](CCCCn3cccn3)CC2)nc2ccccc21.O=C(c1ccncc1)[NH:10][H:20] 10=20;20,21=21",
"CC[C@H]1C[N+:21]2([H:20])CCc3cc(OC)c(OC)cc3[C@@H]2C[C@@H]1CC=O.C[NH:10]Cc1ccccn1>>CC[C@H]1C[N:21]2CCc3cc(OC)c(OC)cc3[C@@H]2C[C@@H]1CC=O.C[NH+:10](Cc1ccccn1)[H:20] 10=20;20,21=21",
"CC(CN)[NH2:10].Cc1cc(I)c([O:21][H:20])c(I)c1>>CC(CN)[NH2+:10][H:20].Cc1cc(I)c([O-:21])c(I)c1 10=20;20,21=21",
"O=C(c1cnc(Cl)s1)[O-:10].O=C1CCC(C(=O)[O:21][H:20])N1>>O=C(c1cnc(Cl)s1)[O:10][H:20].O=C1CCC(C(=O)[O-:21])N1 10=20;20,21=21",
"COCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(Cl)C([N+](=O)[O-])=C1)[H:20]>>COCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(Cl)C([N+](=O)[O-])=C1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccc(C)cc1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N:21](c2ccc(N)nc2)[H:20])cc1.O=C(N[O-:10])c1ccccc1>>Nc1ccc(S(=O)(=O)[N-:21]c2ccc(N)nc2)cc1.O=C(N[O:10][H:20])c1ccccc1 10=20;20,21=21",
"C[n+]1c(N)cc[n:10]c1[O-].O=C([O-])c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1>>C[n+]1c(N)cc[n+:10]([H:20])c1[O-].O=C([O-])c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1 10=20;20,21=21",
"Cc1cc(O)ccc1C(=O)[O-:10].O=Cc1cc(Br)cc([N+](=O)[O-])c1[O:21][H:20]>>Cc1cc(O)ccc1C(=O)[O:10][H:20].O=Cc1cc(Br)cc([N+](=O)[O-])c1[O-:21] 10=20;20,21=21",
"O=[N+]([O-])c1cccc([O-:10])c1[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cccc([O:10][H:20])c1[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n+:21]([H:20])c(C)nc1N.C[C@]12C[C@H](C(=O)[O-:10])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2>>CC(=C(CCO)SSCCC(C)C)N(C=O)Cc1c[n:21]c(C)nc1N.C[C@]12C[C@H](C(=O)[O:10][H:20])OC(=O)[C@H]1CC[C@@]1(C)[C@@H]2[C@H]2CCC1(O)C(=O)O2 10=20;20,21=21",
"Cc1ccc(OC(=O)CCCC[N:10](C)C)cc1.Clc1ccc([O:21][H:20])c2ccccc12>>Cc1ccc(OC(=O)CCCC[N+:10](C)(C)[H:20])cc1.Clc1ccc([O-:21])c2ccccc12 10=20;20,21=21",
"CC[N:10](CC)CC(=O)NC1CCc2ccccc21.c1nc(NC2CCCCC2)c2c(n1)nc[n:21]2[H:20]>>CC[N+:10](CC)(CC(=O)NC1CCc2ccccc21)[H:20].c1nc(NC2CCCCC2)c2c(n1)nc[n-:21]2 10=20;20,21=21",
"Brc1ccc[n+:21]([H:20])c1.Nc1cc[n:10]c(N)n1>>Brc1ccc[n:21]c1.Nc1cc[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"N[N-:10]C(=O)C(F)(F)C(F)(F)C(F)(F)F.O=[N+]([O-])c1cc(Br)ccc1[O:21][H:20]>>N[N:10](C(=O)C(F)(F)C(F)(F)C(F)(F)F)[H:20].O=[N+]([O-])c1cc(Br)ccc1[O-:21] 10=20;20,21=21",
